US08383644B2
(S)-2-({(S)-7-(2-Amino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester
(S)-2-({(S)-7-(2-Acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester (483 mg) was suspended in dry methanol (3 mL). To this solution was added 4N HCl in dioxane. The mixture was heated at 63° C. for 3-4 hours. Upon complete conversion, the mixture was concentrated to dryness. The solid was re dissolved in DCM 10 mL and was washed with Na2CO3 to a pH of 8. The organic layer was washed with water, brine, dried (anhydrous Na2SO4) and concentrated to get a white solid. The solid was purified by column chromatography (silica, DCM-EtOAc, 90/1-60/40) to get the desired product as a white solid (393 mg). LCMS (m/z) 926.

reactant | (S)-2-({(S)-7-(2-Acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | 483 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=C(N=C(S3)NC(C)=O)C)=O | C48H41Cl2N5O9S2
reactant | HCl | 4N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-2-({(S)-7-(2-Amino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | 393 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=C(N=C(S3)N)C)=O | C46H39Cl2N5O8S2
